US04849429
(1) 2,6-Dimethyl-4-(6-cyano-2-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-β-chloroethyl ester 5-methyl ester
6-Cyano-2-pyridine aldehyde (1.613 g, 12.2 mmol), chloroethyl acetoacetate (2.009 g, 12.2 mmol) and methyl 3-aminocrotonate (1.364 g, 12.2 mmol) were dissolved in 16 ml of isopropanol, and the solution was stirred at 35° to 40° C. under a nitrogen gas stream for 14 hours. The reaction solvent was distilled off under reduced pressure, and the residue was purified by column chromatography [silica gel; ethyl acetate-n-hexane (5:6)]. The crude product thus obtained was recrystallized from isopropyl ether-methanol to obtain 1.546 g (34% yield) of the above-captioned compound.

reactant | 6-Cyano-2-pyridine aldehyde | 12.2 mmol, 1.613 g | C(#N)C1=CC=CC(=N1)C=O | C7H4N2O
reactant | chloroethyl acetoacetate | 12.2 mmol, 2.009 g | C(CC(=O)C)(=O)OCCCl | C6H9ClO3
reactant | methyl 3-aminocrotonate | 12.2 mmol, 1.364 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropanol | 16 ml | C(C)(C)O | C3H8O
product | 2,6-Dimethyl-4-(6-cyano-2-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-β-chloroethyl ester 5-methyl ester | 1.546 g, 34% yield | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCCl)C1=NC(=CC=C1)C#N | C18H18ClN3O4
